US08835472B2
{2-[4-(4-Ethoxy-phenylethynyl)-phenyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester
To 5.00 g (13.8 mmol) [2-(4-iodo-phenyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester (I52.5) and 2.02 g (13.8 mmol) 4-ethoxyphenylacetylene in 80 mL ACN are added 4.46 mL (32.2 mmol) TEA, 135.6 mg (0.17 mmol) [1,1′-bis(diphenyl-phosphino)ferrocene]dichloropalladium(II) complex with dichloromethane and 32.3 mg (0.17 mmol) CuI, and the reaction mixture is stirred at r.t. over night. The precipitate is filtered and washed with ACN. The resulting crude product is purified by column chromatography (CyH/EtOAc 100/0→90/10).

reactant | [2-(4-iodo-phenyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 13.8 mmol, 5.00 g | C(C)(C)(C)OC(NC(CC1=CC=C(C=C1)I)C)=O | C14H20INO2
reactant | 4-ethoxyphenylacetylene | 13.8 mmol, 2.02 g | C(C)OC1=CC=C(C=C1)C#C | C10H10O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ACN | 80 mL | C(C)#N | C2H3N
catalyst | CuI | 0.17 mmol, 32.3 mg | [Cu]I
product | {2-[4-(4-Ethoxy-phenylethynyl)-phenyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)OCC)C)=O | C24H29NO3
